US08168791B2
(4r)-1-azatricyclo[3.3.1.13,7]decane-4-carbonitrile
Azaadamantan-4-one (3.76 g, 24.9 mmol; see Becker, D. P.; Flynn, D. L. Synthesis 1992, 1080-1082.) and p-toluenesulfonylmethyl isocyanide (TOSMIC, 6.38 g, 32.3 mmol) were dissolved in a mixture of 1,2-dimethoxyethane (87 mL) and ethanol (3.2 mL) and chilled to −78° C. To the reaction mixture was added potassium tert-butoxide (6.70 g, 59.7 mmol) over a period of 1 minute. The cooling bath was removed and the reaction mixture was stirred at 25° C. for 5 hours and then heated at 40° C. for 0.5 hour. The reaction mixture was cooled and filtered through a glass frit. The filtrate was concentrated, and the residue was purified by silica gel chromatography (10% concentrated NH4OH in acetonitrile, Rf=0.25) to afford the title compound. An aliquot of the solid was then dissolved in 10:1 ether/methanol and treated with fumaric acid (10 mg/mL solution in 10:1 ether/methanol). The precipitate was filtered and dried under vacuum to afford the title compound as a fumarate for characterization: 1H NMR (500 MHz, methanol-d4) δ 2.07-2.14 (m, 2H), 2.22-2.32 (m, 3H), 2.47 (s, 2H), 3.49-3.56 (m, 5 H), 3.59-3.66 (m, 2 H), 6.70 ppm (s, 2.8 H; C4H4O4); MS (DCI/NH3) m/z 163 (M+H)+; Anal. Calcd. for C10H14N2.1.45C4H4O4: C, 57.41; H, 6.04; N, 8.48. Found: C, 57.26; H, 6.04; N, 8.87.

reactant | Azaadamantan-4-one | 24.9 mmol, 3.76 g | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
reactant | p-toluenesulfonylmethyl isocyanide | 32.3 mmol, 6.38 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium tert-butoxide | 59.7 mmol, 6.70 g | CC(C)([O-])C.[K+]
solvent | 1,2-dimethoxyethane | 87 mL | COCCOC | C4H10O2
solvent | ethanol | 3.2 mL | C(C)O | C2H6O
product | (4r)-1-azatricyclo[3.3.1.13,7]decane-4-carbonitrile | N12CC3[C@H](C(CC(C1)C3)C2)C#N | C10H14N2
